US06017675
As described under 11.3., 5.1 g (0.02 mol) of 9-hydroxyimino-3,6-dimethoxyfluorene are reacted at 0° C., in the presence of 3.0 g (0.03 mol) of triethylamine in 100 ml THF, with 5.6 g (0.022 mol) of 4-dodecylbenzenesulfonyl chloride. The crude product obtained after isolation is purified by flash chromatography on silica gel (eluant: petroleum ether/ethyl acetate 4:1). 5.8 g (51.3%) of 9-(4-dodecyl-phenylsulfonyloxyimino)-3,6-dimethoxyfluorene are obtained in the form of a viscous yellow oil. The UV spectrum (acetonitrile) of the substance shows absorption bands with a maximum at 315 nm (ε=21100) that extend to 443 nm. Elemental analysis: C33H41NO5S (563.76)

reactant | 9-hydroxyimino-3,6-dimethoxyfluorene | 0.02 mol, 5.1 g | ON=C1C2=CC=C(C=C2C=2C=C(C=CC12)OC)OC | C15H13NO3
reactant | triethylamine | 0.03 mol, 3.0 g | C(C)N(CC)CC | C6H15N
reactant | 4-dodecylbenzenesulfonyl chloride | 0.022 mol, 5.6 g | C(CCCCCCCCCCC)C1=CC=C(C=C1)S(=O)(=O)Cl | C18H29ClO2S
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 9-(4-dodecyl-phenylsulfonyloxyimino)-3,6-dimethoxyfluorene | 5.8 g, 51.3% | C(CCCCCCCCCCC)C1=CC=C(C=C1)S(=O)(=O)ON=C1C2=CC=C(C=C2C=2C=C(C=CC12)OC)OC | C33H41NO5S
